US06030984
Ethyl 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylate
From 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid with SOCl2 in toluene and ethanol.

reactant | 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | C1(=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O)C3=CC=CC=C3 | C24H15NO3S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylate | C1(=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)OCC)SC=C3)=O)C3=CC=CC=C3 | C26H19NO3S
